US07592342B2
Preparation of N-{5-[3-(1-piperazinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide
To a solution of 1,1-dimethylethyl 4-(7-{5-[(phenylsulfonyl)amino]-3-pyridinyl}-2-quinoxalinyl)-1-piperazinecarboxylate (1.80 mmol) in acetonitrile (4 ml) was added concentrated trifluoroacetic acid (4 ml). The reaction stirred at ambient temperature for 18 hours and was then concentrated to an orange oil. The residue was neutralized with 10% sodium carbonate solution and purified on silica by column chromatography (15% methanol/ethyl acetate). The desired fractions were combined and concentrated to give the title compound (500 mg, 61%) as a tan solid. MS(ES)+ m/e 447.2 [M+H]+.

reactant | 1,1-dimethylethyl 4-(7-{5-[(phenylsulfonyl)amino]-3-pyridinyl}-2-quinoxalinyl)-1-piperazinecarboxylate | 1.80 mmol | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=NC1)C1=CC=C2N=CC(=NC2=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C28H30N6O4S
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | N-{5-[3-(1-piperazinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide | 500 mg, 61% | N1(CCNCC1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C23H22N6O2S
